US07427635B2
Crude (2S,3S)-2-{(R)-2-amino-2-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-acetylamino}-3-phenyl-N-(4-propionyl-thiazol-2-yl)-butyramide (≈0.16 mmol) was dissolved in tetrahydrofuran (10 mL) that contained diisopropylethylamine (142 μL, 105 mg, 0.81 mmol) and was transferred via cannula to a solution of diphosgene (14 μL, 23 mg, 0.12 mmol) in tetrahydrofuran (15 mL) at 0° C. The reaction mixture was stirred for 20 minutes and then partitioned between ethyl acetate and water. The organic layer was separated and dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by chromatography over silica gel eluted first with ethyl acetate and then gradient eluted with dichloromethane containing from 0 to 10% methanol. Precipitation of the isolated product from dichloromethane with an excess of hexanes gave (2S,3S)-2-{2,5-dioxo-4-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-imidazolidin-1-yl}-3-phenyl-N-(4-propionyl-thiazol-2-yl)-butyramide as a white solid (26 mg, 27%).

reactant | (2S,3S)-2-{(R)-2-amino-2-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-acetylamino}-3-phenyl-N-(4-propionyl-thiazol-2-yl)-butyramide | ≈0.16 mmol | N[C@@H](C(=O)N[C@H](C(=O)NC=1SC=C(N1)C(CC)=O)[C@@H](C)C1=CC=CC=C1)C1=CC=C(C=C1)OCCN1CCCCC1 | C31H39N5O4S
reactant | diisopropylethylamine | 0.81 mmol, 142 μL, 105 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diphosgene | 0.12 mmol, 14 μL, 23 mg | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | (2S,3S)-2-{2,5-dioxo-4-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-imidazolidin-1-yl}-3-phenyl-N-(4-propionyl-thiazol-2-yl)-butyramide | 26 mg, 27% | O=C1N(C(C(N1)C1=CC=C(C=C1)OCCN1CCCCC1)=O)[C@H](C(=O)NC=1SC=C(N1)C(CC)=O)[C@@H](C)C1=CC=CC=C1 | C32H37N5O5S
